US06930208B2
Step 3: 3-Oxo-1-cyclohexenyl 2-chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoate
0.526 g (1.40 mmol) of 2-chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoic acid, 0.173 g (1.50 mmol) of cyclohexane-1,3-dione, 0.274 g (1.40 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 0.002 g of dimethylaminopyridine were reacted analogously to preparation c).

reactant | 2-chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoic acid | 1.40 mmol, 0.526 g | ClC1=C(C(=O)O)C=CC(=C1OCC(C)=NOCC=C)S(=O)(=O)CC | C15H18ClNO6S
reactant | cyclohexane-1,3-dione | 1.50 mmol, 0.173 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 1.40 mmol, 0.274 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylaminopyridine | 0.002 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | 3-Oxo-1-cyclohexenyl 2-chloro-3-(2-allyloxyiminopropyloxy)-4-ethanesulfonylbenzoate | ClC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1OCC(C)=NOCC=C)S(=O)(=O)CC | C21H24ClNO7S
